US04097472
To 500 g of 10% sodium hypochlorite solution cooled in an ice bath, there was added dropwise a solution of 33.6 g (0.21 mole) of 4-methylpiperidine acetate in 10 ml of water over a period of 1 hour. At the end of this period, the reaction product was extracted twice with 500 ml of ethyl ether and dried over anhydrous sodium sulfate. After evaporation of ethyl ether, the residue was added dropwise to a solution of 11.8 g (0.21 mole) of potassium hydroxide in 100mls of 96% ethanol under reflux. Refluxing was continued for an additional 10 minutes. Ethanol was evaporated, and the residue was dissolved into 50 ml of 2N sodium hydroxide solution and then extracted with ether. The ether layers was dried over anhydrous sodium sulfate and then ether evaporated. The residue was added to an ice-cooled solution of 27 g (1 mole) of hydrogen cyanide and 25 ml of concentrated hydrochloric acid in 300 ml of water. The solution was stirred at a temperature of 10° to 20° C for 4 hours and thereafter made basic by the addition of solid sodium hydroxide. The reaction product was extracted with ether, dried over anhydrous sodium sulfate and then distilled under reduced pressure to give 17 g (66%) of 4-methyl-2-piperidinecarbonitrile, B.P. 96°-97° C/10 mmHg. The following 2-piperidinecarbonitriles not previously reported in the chemical literature were synthesized by the aforementioned procedure which is essentially that as taught by Grundon et al., J. Chem. Soc., 1963, 3898, Grundon et al., J. Chem. Soc., 1964, 2448, R. Bonnett et al., J. Chem. Soc., 1959, 2092 and H. Bohme et al., Ber., 92 1613 (1959).

reactant | sodium hypochlorite | 500 g | Cl[O-].[Na+]
reactant | 4-methylpiperidine acetate | 0.21 mole, 33.6 g | C(C)(=O)O.CC1CCNCC1
reactant | potassium hydroxide | 0.21 mole, 11.8 g | [OH-].[K+]
reactant | hydrogen cyanide | 1 mole, 27 g | C#N | CHN
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | ethanol | 100mls | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | 4-methyl-2-piperidinecarbonitrile | 17 g, 66% | CC1CC(NCC1)C#N | C7H12N2
